US04859662
(E)-1,2,3,9-Tetrahydro-9-methyl-3-[ (5-methyl-1H-imidazol-4-yl) methylene]-4H-carbazol-4-one maleate
A solution of 1,2,3,9-tetrahydro-3-[hydroxy[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-methyl-4H-carbazol-4-one (2.70 g) in glacial acetic acid (100 ml) was treated with p-toluenesulphonic acid monohydrate (10.80 g) and the stirred solution heated at reflux for 4 h. The cool, dark liquid was evaporated, treated with aqueous saturated sodium bicarbonate (250 ml) and extracted into ethyl acetate (4×250 ml). the combined, dried organic extracts were evaporated, and purified by SPCC. Elution with System A (978:20:2→945:50:5) afforded the free base of the title compound as a light yellow-brown solid (488 mg). A hot solution of the free base (87 mg) in ethanol (ca. 16 ml) was treated with a hot solution of maleic acid (38 mg) in ethanol (1 ml), and on cooling the precipitate was collected to give the title compound (81 mg), m.p. 205°-209°.

reactant | 1,2,3,9-tetrahydro-3-[hydroxy[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-9-methyl-4H-carbazol-4-one | 2.70 g | OC(C1CCC=2N(C3=CC=CC=C3C2C1=O)C)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H33N3O2
reactant | p-toluenesulphonic acid monohydrate | 10.80 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | (E)-1,2,3,9-Tetrahydro-9-methyl-3-[ (5-methyl-1H-imidazol-4-yl) methylene]-4H-carbazol-4-one maleate | 488 mg | C(\C=C/C(=O)O)(=O)O.CN1C2=CC=CC=C2C=2C(/C(/CCC12)=C/C=1N=CNC1C)=O | InChI=1S/C18H17N3O.C4H4O4/c1-11-14(20-10-19-11)9-12-7-8-16-17(18(12)22)13-5-3-4-6-15(13)21(16)2;5-3(6)1-2-4(7)8/h3-6,9-10H,7-8H2,1-2H3,(H,19,20);1-2H,(H,5,6)(H,7,8)/b12-9+;2-1-
